US06359008B1
The compound may be prepared using the Schotten-Baumann procedure. Palmitoyl chloride (44.0 g, 0.16 mol) is added dropwise to a solution of DL-alanine (21.4 g, 0.24 mol) in 10% aqueous sodium hydroxide (200 ml) heated at 50° C. The pH of the reaction is monitored such that the pH does not drop below 10. After the addition is complete, the reaction is stirred for a further 1 hour before it is allowed to cool to room temperature and neutralised with concentrated hydrochloric acid. The resultant precipitate is collected by filtration, washed with water and allowed to dry in air. The product is recrystallised from ether-petrol to give 2-palmitoylaminoproprionic acid as a white solid (36.4 g, 70%).

reactant | Palmitoyl chloride | 0.16 mol, 44.0 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | DL-alanine | 0.24 mol, 21.4 g | NC(C)C(=O)O | C3H7NO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
product | 2-palmitoylaminoproprionic acid | 36.4 g, 70% | C(CCCCCCCCCCCCCCC)(=O)NC(C(=O)O)C | C19H37NO3
